US05374723
(1) Synthesis of 4,4-dimethyl-5-oxohexane-nitrile
A mixture of 40 g of 3-methyl-2-butanone and 2 g of Triton B was heated to 350° C., and 20 g of acrylonitrile was added to the mixture over a period of 1 hour. Then, the mixture was stirred for 18 hours, and hydrochloric acid was added to the mixture to make the mixture acidic and the mixture was extracted with ether.

reactant | 3-methyl-2-butanone | 40 g | CC(C(C)=O)C | C5H10O
reactant | acrylonitrile | 20 g | C(C=C)#N | C3H3N
reactant | hydrochloric acid | Cl | ClH
product | 4,4-dimethyl-5-oxohexane-nitrile | CC(CCC#N)(C(C)=O)C | C8H13NO
